US08975254B2
N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-5-methylisoxazole-3-carboxamide
The title compound was prepared from 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile (150 mg) and 5-methylisoxazole-3-carboxylic acid (89 mg) using the method of Example 34(d). Yield 9 mg. 1H-NMR (400 MHz; d6-DMSO): δ 2.44 (s, 3H), 3.70 (q, 2H), 4.40 (t, 2H), 6.48 (d, 1H), 7.05 (d, 1H), 7.88 (d, 1H), 8.18 (d, 1H), 8.32 (dd, 1H), 8.67 (d, 1H), 8.79 (m, 1H).

reactant | 4-(1-(2-aminoethyl)-1H-pyrazol-3-yl)-2-nitrobenzonitrile | 150 mg | NCCN1N=C(C=C1)C1=CC(=C(C#N)C=C1)[N+](=O)[O-] | C12H11N5O2
reactant | 5-methylisoxazole-3-carboxylic acid | 89 mg | CC1=CC(=NO1)C(=O)O | C5H5NO3
product | N-(2-(3-(4-cyano-3-nitrophenyl)-1H-pyrazol-1-yl)ethyl)-5-methylisoxazole-3-carboxamide | C(#N)C1=C(C=C(C=C1)C1=NN(C=C1)CCNC(=O)C1=NOC(=C1)C)[N+](=O)[O-] | C17H14N6O4
